US07060827B2
In like manner to the preparation of N2,N4-bis(3-hydroxyphenyl)-5-fluoro-2,4-pyrimidinediamine, 2,4-dichloro-5-fluoropyrimidine and 2-ethoxycarbonyl-5-indoleamine were reacted to yield N2,N4-bis(2-ethoxycarbonylindol-5-yl)-5-fluoro-2,4-pyrimidinediamine. 1H NMR (DMSO-d6): δ 11.83 (s, 1H), 11.63 (s, 1H), 9.21 (s, 1H), 8.99 (s, 1H), 8.08 (s, 1H), 8.01 (m, 2H), 7.49–7.22 (m, 4H), 6.92 (s, 1H), 6.63 (s, 1H), 4.29 (q, 4H, J=7.2 Hz), 1.32 (m, 6H); LCMS: ret. time: 24.74 min.; purity: 99%; MS (m/e): 503 (MH+).

reactant | 2,4-dichloro-5-fluoropyrimidine | ClC1=NC=C(C(=N1)Cl)F | C4HCl2FN2
reactant | 2-ethoxycarbonyl-5-indoleamine | C(C)OC(=O)C=1NC2=CC=C(C=C2C1)N | C11H12N2O2
product | N2,N4-bis(2-ethoxycarbonylindol-5-yl)-5-fluoro-2,4-pyrimidinediamine | C(C)OC(=O)C=1NC2=CC=C(C=C2C1)NC1=NC=C(C(=N1)NC=1C=C2C=C(NC2=CC1)C(=O)OCC)F | C26H23FN6O4
